US09376436B2
To a microwave vial was added (5R)-7-methyl-2-(6-methyl-2-pyridyl)-1,7-diazaspiro[4.4]non-1-en-6-one (which may be prepared as described in Description 32) (100 mg, 0.4100 mmol), 4,4′-di-tert-butyl-2,2′-bipyridyl (11.03 mg, 0.0400 mmol), bis(pinocolato)-diboron (156.55 mg, 0.6200 mmol), and (1,5-cyclooctadiene)(methoxy)iridium(I) dimer (13.62 mg, 0.0200 mmol). The microwave vial was sealed and evacuated and filled with nitrogen three times. 1,2-dimethoxyethane (2 mL) was then added and the reaction was heated in the microwave at 120° C. for 10 minutes. The vessel was cooled and a solution of sodium carbonate (217.81 mg, 2.06 mmol) in water (1 mL) was added, followed by 1-bromo-4-fluorobenzene (0.06 mL, 0.5100 mmol), and finally 1,1′-bis(diphenylphosphino)ferrocene-palladium(II)dichloride-dichloromethane complex (16.82 mg, 0.0200 mmol). The reaction was then resealed, and heated in a microwave at 130° C. for 10 minutes. The cooled reaction mixture was partitioned between EtOAc (15 mL) and water (10 mL). The organics were separated, washed with brine, dried over MgSO4, filtered and concentrated in vacuo. The residue was loaded onto silica (10 g SNAP column), and this was eluted with MeOH:EtOAc, 0% to 16%. Fractions containing desired product were combined and concentrated in vacuo to give (5R)-2-[4-(4-fluorophenyl)-6-methyl-2-pyridyl]-7-methyl-1,7-diazaspiro[4.4]non-1-en-6-one (D33R) (65 mg, 0.1927 mmol, 46.9% yield) as a colourless oil;

reactant | (5R)-7-methyl-2-(6-methyl-2-pyridyl)-1,7-diazaspiro[4.4]non-1-en-6-one | 0.4100 mmol, 100 mg | CN1C([C@@]2(CCC(=N2)C2=NC(=CC=C2)C)CC1)=O | C14H17N3O
reactant | 4,4′-di-tert-butyl-2,2′-bipyridyl | 0.0400 mmol, 11.03 mg | C(C)(C)(C)C1=CC(=NC=C1)C1=NC=CC(=C1)C(C)(C)C | C18H24N2
reactant | sodium carbonate | 2.06 mmol, 217.81 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | 1-bromo-4-fluorobenzene | 0.5100 mmol, 0.06 mL | BrC1=CC=C(C=C1)F | C6H4BrF
solvent | water | 1 mL | O | H2O
catalyst | (1,5-cyclooctadiene)(methoxy)iridium(I) dimer | 0.0200 mmol, 13.62 mg | C[OH2+].C[OH2+].C1/C=C\CC/C=C\C1.C1/C=C\CC/C=C\C1.[Ir].[Ir]
product | (5R)-2-[4-(4-fluorophenyl)-6-methyl-2-pyridyl]-7-methyl-1,7-diazaspiro[4.4]non-1-en-6-one | 0.1927 mmol, 65 mg, 46.9% yield | FC1=CC=C(C=C1)C1=CC(=NC(=C1)C)C1=N[C@@]2(CC1)C(N(CC2)C)=O | C20H20FN3O
